US07446118B2
To a solution of [3-(1,3-bis-methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-amine LXXIX (36 mg, 0.0865 mmol) in MeOH (3 ml) was added a solution of KOH (7.29 mg, 0.13 mmol) in MeOH. After stirring for 50 minutes at room temperature, the mixture was concentrated, and the residue was partitioned between EtOAc and H2O. The combined organic layers were dried over Na2SO4, filtered, concentrated, and purified via flash chromatography (DCM/MeOH/NH4OH) to provide [3-(3-methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-amine LXXX as a white powder (13 mg, 36% yield). MS (M+H)=343.

reactant | [3-(1,3-bis-methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-amine | CS(=O)(=O)N1C=C(C2=CC(=CC=C12)C(CCNC)C1=CC=CC=C1)S(=O)(=O)C | C20H24N2O4S2
reactant | KOH | 0.13 mmol, 7.29 mg | [OH-].[K+]
solvent | MeOH | 3 ml | CO | CH4O
product | [3-(3-methanesulfonyl-1H-indol-5-yl)-3-phenyl-propyl]-methyl-amine | CS(=O)(=O)C1=CNC2=CC=C(C=C12)C(CCNC)C1=CC=CC=C1 | C19H22N2O2S
